US04551272
17.4 g (0.05 mol) of glycyl-L-tyrosine ethyl ester·HBr, 9 g (0.05 mol) of p-acetoxybenzoic acid and 5.1 g (0.05 mol) of triethylamine were dissolved in 250 ml of dichloromethane, and after the solution was cooled to 0° C., 9.6 g (0.05 mol) of 1-ethyl-3(3-dimethylaminopropyl)carbodiimide·HCl was added to the solution, and the solution was stirred overnight. The reaction mixture was washed with a 0.1% aqueous solution of Na2CO3 and with a 0.1 N HCl solution, and was dried over anhydrous sodium sulfate. Dichloromethane was removed from the mixture under reduced pressure to obtain p-acetoxybenzoylglycyl-L-tyrosine ethyl ester.

reactant | glycyl-L-tyrosine ethyl ester·HBr | 0.05 mol, 17.4 g | C(C)OC([C@@H](NC(CN)=O)CC1=CC=C(C=C1)O)=O.Br
reactant | p-acetoxybenzoic acid | 0.05 mol, 9 g | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | triethylamine | 0.05 mol, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3(3-dimethylaminopropyl)carbodiimide·HCl | 0.05 mol, 9.6 g | C(C)N=C=NCCCN(C)C.Cl
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | p-acetoxybenzoylglycyl-L-tyrosine ethyl ester | C(C)OC([C@@H](NC(CNC(C1=CC=C(C=C1)OC(C)=O)=O)=O)CC1=CC=C(C=C1)O)=O | C22H24N2O7
